US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine (Compound 29)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3-methylphenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 3.20-3.30 (m, 4H), 3.74-3.77 (m, 3H), 4.11-4.14 (m, 4H), 6.74-6.77 (m, 3H), 7.16-7.25 (m, 4H), 7.64-7.81 (m, 1H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine | 90% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C | C21H22ClN5O2
